US07473699B2
Intermediate 6: 2,2-Dichloro-N-methoxy-N-methylacetamide
N,O-Dimethylhydroxylamine hydrochloride (7.94 g, 81.4 mmol) and K2CO3 (17.2 g, 124.1 mmol) were added to a water (70 ml) and toluene (70 ml) mixture. The mixture was then cooled to 0° C. Dichloroacetyl chloride (10 g, 67.85 mmol) was added drop wise and the reaction was allowed to warm to room temperature overnight. The toluene was collected and then the aqueous layer was extracted with EtOAc (2×100 ml). The organic layers were dried over sodium sulfate and concentrated in vacuo to give the title product (10.8 g).

reactant | N,O-Dimethylhydroxylamine hydrochloride | 81.4 mmol, 7.94 g | Cl.CNOC
reactant | K2CO3 | 124.1 mmol, 17.2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 70 ml | O | H2O
reactant | Dichloroacetyl chloride | 67.85 mmol, 10 g | ClC(C(=O)Cl)Cl | C2HCl3O
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
product | 2,2-Dichloro-N-methoxy-N-methylacetamide | 10.8 g | ClC(C(=O)N(C)OC)Cl | C4H7Cl2NO2
